* Complete receiver using the HiLetgo ADS1256 module and XIAO RP2350
* Nominal 50 uT operating point; ADS1256 at 30 kSPS, differential, PGA=64
.param fL=2128.819237
.param V0=1.008442079u
.param T2s=0.95
.param VDD=3.3
.param PGA=64

* Induced FID test source and external nominal series-opposed sensing pair.
Vfid source 0 DC 0 AC 1 SINE(0 {V0} {fL} 0 {1/T2s})
Rcoil source coil_l 14
Lcoil coil_l coil_hi 22m

* Physical C0G tuning bank, total 254.068 nF.
C1 coil_hi 0 220n
C2 coil_hi 0 33n
C3 coil_hi 0 1n
C4 coil_hi 0 68p

* Coupling, clamp-current limit, bias, and default-on shunt blanker.
C5 coil_hi protected 1u
R1 protected pre_in 1k
R2 pre_in vref 1Meg
D1 0 pre_in BAS116
D2 pre_in avdd BAS116
Sblank pre_in vref blank 0 TMUXSW
R3 avdd blank 100k
Vblank blank 0 0

* Filtered XIAO 3V3_OUT analog rail. USB VBUS separately powers ADS1256.
V3V3 xiao_3v3 0 {VDD}
Rfb xiao_3v3 avdd_f 0.25
Lfb avdd_f avdd 0.95u
C10 avdd 0 10u
C11 avdd 0 100n
C12 avdd 0 100n
C13 avdd 0 1u
Vusb vbus5 0 5
C14 vbus5 0 10u
C15 vbus5 0 100n
Rfb5 vbus5 opamp_f 0.25
Lfb5 opamp_f opamp5 0.95u
C21 opamp5 0 10u
C22 opamp5 0 100n

* Half-supply reference buffered by U1D. OPA4197 uses the filtered 5 V rail;
* its specified minimum supply is 4.5 V, so it is not powered from 3V3_OUT.
R4 opamp5 vref_raw 10k
R5 vref_raw 0 10k
C6 vref_raw 0 10u
XU1D vref_raw vref vref opamp5 0 OPA4197

* U1A non-inverting preamplifier, gain 4.01.
XU1A pre_in stage1_n stage1 opamp5 0 OPA4197
R6 stage1_n vref 1k
R7 stage1 stage1_n 3.01k

* U1B high-pass stage, fc=723 Hz and inverting gain 4.02.
C7 stage1 hp_in 22n
R8 hp_in stage2_n 10k
R9 stage2 stage2_n 40.2k
XU1B vref stage2_n stage2 opamp5 0 OPA4197

* U1C unity-gain low-pass stage, feedback pole 4.82 kHz.
R10 stage2 stage3_n 10k
R11 stage3_n stage3 10k
C8 stage3_n stage3 3.3n
XU1C vref stage3_n stage3 opamp5 0 OPA4197

* Differential ADS1256 input. AIN1 is buffered 2.5 V. R12/C9 add a
* 7.23 kHz differential input pole. The module's input buffer must be enabled.
R12 stage3 ads_ain0 1k
C9 ads_ain0 vref 22n
Rads ads_ain0 vref 1G
Cads ads_ain0 vref 5p

* ADS1256 internal PGA representation. With module VREF=2.5 V and PGA=64,
* differential input full scale is nominally +/-2*VREF/PGA = +/-78.125 mV.
* This source models the selected ADC's specified PGA, not board-level gain.
Epga pga_out 0 ads_ain0 vref {PGA}
Rload pga_out 0 1Meg

* U3 XIAO RP2350 uses SPI0 through explicit 3.3V/5V logic buffers:
* D8/GPIO2 SCLK, D10/GPIO3 MOSI, D9/GPIO4 MISO, D3/GPIO5 CS,
* D2/GPIO28 DRDY, D4/GPIO6 PDWN, and D1/GPIO27 BLANK.
* ADS1256 configuration: AIN0-AIN1 differential, input buffer on, PGA=64,
* 30 kSPS. Firmware must use DRDY and report fitted frequency/field over USB.

* Compact finite-gain OPA4197 model for cross-tool AC and noise checks.
.subckt OPA4197 inp inn out vdd vss
Rdiff inp inn 1T
Renoise en 0 1826
Bplus nplus 0 V=V(inp)+V(en)
Eol raw 0 nplus inn 100k
Rdom raw nint 1k
Cdom nint 0 1.5915u
Ebuf nbuf 0 nint 0 1
Rout nbuf out 20
Cout out 0 2p
.ends OPA4197

.model BAS116 D(Is=2p Rs=1 Cjo=2p Bv=85 Ibv=100n)
.model TMUXSW SW(Ron=1.8 Roff=1T Vt=1.0 Vh=0.1)

.options plotwinsize=0
.ac dec 1000 100 100k
.noise V(pga_out) Vfid dec 1000 500 5000
* ADS1256 converter noise, INL, clock error, and alias response are not in this
* compact model. Verify them on the purchased module at PGA=64 and 30 kSPS.
.save all
.end
